US05294618
trans-3-Butyl-1,2,3,4,4a,5,6,10b-octahydrobenz[f]isoquinoline
A solution of 0.104 g (0.374 mmol) of 3-butyl-1,2,3,4,5,6-hexahydro-benz[f]isoquinoline hydrochloride in 4 ml of anhydrous THF and 0.2 ml of aniline was added dropwise to a solution of 22 mg of lithium wire in 50 ml of liquid ammonia, cooled by a dry-ice/acetone bath. The cooling bath was then removed and the mixture was stirred under nitrogen for 2 h before quenching carefully with water (2 ml) and allowing the solvents to evaporate overnight. The residue was partitioned between ether and water, and the aqueous layer was reextracted with more ether. The combined ether extracts were dried (K2CO3) and evaporated in vacuo to leave a brown oil. This was chromatographed on flash silica eluting with 50% ethyl acetate/petroleum ether to give 31.7 mg (35%) of the title product as a colourless oil. The hydrochloride salt was made using ethereal hydrogen chloride. Upon evaporation of the solvent, the title product hydrochloride was obtained as a white solid, m.p. 217°-221° C. (dec). NMR δ(D2O) 0.96 (3H, t, J=7 Hz), 1.41 (2H, m), 1.51-1.92 (6H, m), 2.66-2.75 (2H, m), 2.86-2.95 (3H, m), 3.12-3.19 (3H, m), 3.63 (1H, m), 3.77 (1H, m), 7.22-7.28 (3H, m), 7.34-7.37 (1H, m). m/z (CI+, NH3) 244 (M+H)+, 200 (M--CH2CH2CH3)+. Analysis calcd. for C17H26ClN: C, 72.96; H, 9.36; N, 5.01%. Found: C, 72.86; H, 9.31; N, 4.80%.

reactant | 3-butyl-1,2,3,4,5,6-hexahydro-benz[f]isoquinoline hydrochloride | 0.374 mmol, 0.104 g | Cl.C(CCC)N1CC=2CCC3=C(C2CC1)C=CC=C3
reactant | lithium | 22 mg | [Li] | Li
reactant | ammonia | N | H3N
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | aniline | 0.2 ml | NC1=CC=CC=C1 | C6H7N
product | trans-3-Butyl-1,2,3,4,4a,5,6,10b-octahydrobenz[f]isoquinoline | 31.7 mg, 35% | C(CCC)N1C[C@H]2CCC3=C([C@@H]2CC1)C=CC=C3 | C17H25N
